US06864266B2
To a stirring solution of 4-{[(7-amino-1,2,3,4-tetrahydro-naphthalen-2-yl)-ethyl-amino]-methyl}-piperidine-1-carboxylic acid tert-butyl ester (2.3 g, 5.36 mmol) in methylene chloride (30 mL) under an inert atmosphere was added pyridine (0.9 mL, 10.7 mmol) and trifluoroacetic anhydride (1.0 ml, 6.96 mmol) and the solution was allowed to stir at room temperature for 20 h. The reaction was concentrated in vacuo and partitioned between EtOAc and water. The organic layer was washed with brine, dried (MgSO4), and concentrated. The crude reaction product was flash chromatographed on silica eluting with 20% acetone in hexanes to afford 4-({ethyl-[7-(2,2,2-trifluoro-acetylamino)-1,2,3,4-tetrahydro-naphthalen-2-yl]-amino}-methyl)-piperidine-1-carboxylic acid tert-butyl ester as an orange oil (1.2 g).

reactant | 4-{[(7-amino-1,2,3,4-tetrahydro-naphthalen-2-yl)-ethyl-amino]-methyl}-piperidine-1-carboxylic acid tert-butyl ester | 5.36 mmol, 2.3 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CN(CC)C1CC2=CC(=CC=C2CC1)N | C23H37N3O2
reactant | pyridine | 10.7 mmol, 0.9 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 6.96 mmol, 1.0 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | 4-({ethyl-[7-(2,2,2-trifluoro-acetylamino)-1,2,3,4-tetrahydro-naphthalen-2-yl]-amino}-methyl)-piperidine-1-carboxylic acid tert-butyl ester | 1.2 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CN(C1CC2=CC(=CC=C2CC1)NC(C(F)(F)F)=O)CC | C25H36F3N3O3
